US04423047
2-(Iodomethyl)thio-5-chloropyrimidine
Sodium iodide (30 mmol) was added to a solution of 2-chloromethylthio-5-chloropyrimidine (6.7 mmol) in acetone (30 ml) and the mixture heated under reflux for 4 h. The precipitated sodium chloride was removed by filtration, the filtrate evaporated to dryness, the residue triturated with water and recrystallized from ethanol; yield 86%, m.p. 67° C. 1H NMR (CDCl3): δ4.82 (SCH2), 8.67 (H-4, H-6).

reactant | Sodium iodide | 30 mmol | [I-].[Na+]
reactant | 2-chloromethylthio-5-chloropyrimidine | 6.7 mmol | ClCSC1=NC=C(C=N1)Cl | C5H4Cl2N2S
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(Iodomethyl)thio-5-chloropyrimidine | yield 86% | ICSC1=NC=C(C=N1)Cl | C5H4ClIN2S
